US09108953B2
Benzyl mercaptan (6 mL, 50.5 mmol) was added dropwise to a mixture of 5,7-dichloroquinoline (10 g, 50.5 mmol), cesium carbonate (20 g, 60 mmol) and DMF (50 mL) at 0° C. The reaction mixture was allowed to warm to room temperature, stirred for 2 hours and partitioned between ethyl acetate and water. The organic phase was washed with brine, dried with sodium sulfate and concentrated. Purification by column chromatography gave the 5-(benzylthio)-7-chloroquinoline (rf=0.5 in 2:1 hexanes/ethyl acetate) as a crystalline yellow solid. The undesired regioisomer elutes afterwards (rf=0.4 in 2:1 hexanes/ethyl acetate). The reaction is mildly selective for the desired isomer.

reactant | Benzyl mercaptan | 50.5 mmol, 6 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | 5,7-dichloroquinoline | 50.5 mmol, 10 g | ClC1=C2C=CC=NC2=CC(=C1)Cl | C9H5Cl2N
reactant | cesium carbonate | 60 mmol, 20 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 5-(benzylthio)-7-chloroquinoline | C(C1=CC=CC=C1)SC1=C2C=CC=NC2=CC(=C1)Cl | C16H12ClNS
